US08071609B2
B) N-(4-(Dipropylphosphoryl)phenyl)-2-isopropyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To a oven-dried 10 mL round bottom flask was transferred under Ar 2.88 mL Rieke Zinc (0.14 g Zn, 2.2 mmol, 5 g/100 mL THF) using a 12 gauge needle. Then isopropyl iodide (200 □L, 2 mmol) was added via syringe. The solution turned warm and the content was stirred at rt for 3 h. In a separate flask (25 mL) was dissolved N-(4-(dipropylphosphoryl)phenyl)-2-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (0.28 g, 0.5 mmol) and PdCl2(PPh3)2 (0.035 g, 0.05 mmol) in 4.0 mL dry DMF. The Zinc reagent was transferred to the reaction via a syringe. The reaction mixture was stirred at rt overnight. 20 mL EtOAc/20 mL water was added to the reaction mixture and the content was filtered through Celite, washed with 1% MeOH/EtOAc (30 mL). The organic layer was separated and washed with water, brine, and dried Na2SO4. The final product was purified on silica gel (4-7.5% MeOH/DCM).

reactant | isopropyl iodide | 2 mmol | C(C)(C)I | C3H7I
reactant | N-(4-(dipropylphosphoryl)phenyl)-2-iodo-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 0.5 mmol, 0.28 g | C(CC)P(=O)(CCC)C1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)I)C1OCCCC1 | C22H29IN5O2P
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
catalyst | Zinc | 2.2 mmol, 100 mL, 0.14 g | [Zn] | Zn
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-(Dipropylphosphoryl)phenyl)-2-isopropyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | C(CC)P(=O)(CCC)C1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)C(C)C)C1OCCCC1 | C25H36N5O2P
